US04730006
Under an atmosphere of nitrogen, a mixture of 3-phthalimido-4,4-difluoro-7-methoxy-1-heptene (440 mg, 1.43 mmoles) and trimethylsilyliodide (400 mg, 2 mmoles) in dry dichloromethane (10 ml) is heated overnight under reflux. 1N HCl (10 ml) is added to the reaction mixture which is kept under vigorous stirring for 1/2 hour. The organic layer is separated, washed successively with water, sodium bisulfite solution, and water, and is dried over sodium sulfate. 3-phthalimido-4,4-difluoro-7-hydroxy-1-heptene is obtained as a solid: 3.85 mg (91%).

reactant | 3-phthalimido-4,4-difluoro-7-methoxy-1-heptene | 1.43 mmoles, 440 mg | C1(C=2C(C(N1C(C=C)C(CCCOC)(F)F)=O)=CC=CC2)=O | C16H17F2NO3
reactant | trimethylsilyliodide | 2 mmoles, 400 mg | C[Si](C)(C)I | C3H9ISi
reactant | HCl | 1N, 10 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-phthalimido-4,4-difluoro-7-hydroxy-1-heptene | C1(C=2C(C(N1C(C=C)C(CCCO)(F)F)=O)=CC=CC2)=O | C15H15F2NO3
